US08202858B2
(4-Aminomethyl-3-fluoro-phenyl)-(3,6-dimethyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulen-9-yl)-methanone Hydrochloride
[4-(3,6-dimethyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-2-fluoro-benzyl]-carbamic acid tert-butyl ester from Example E8.1 (237 mg, 0.51 mmol) was reacted with 4N HCl/dioxan using an analogous procedure to that described for Example E4.2 to yield the title compound (205 mg, 100%).

reactant | [4-(3,6-dimethyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-2-fluoro-benzyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC1=C(C=C(C=C1)C(=O)N1C2=C(NC=3N(N=CC3C1)C)C=C(C=C2)C)F)=O | C25H28FN5O3
reactant | HCl dioxan | 4N | Cl.O1CCOCC1
product | (4-Aminomethyl-3-fluoro-phenyl)-(3,6-dimethyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulen-9-yl)-methanone Hydrochloride | 205 mg, 100% | Cl.NCC1=C(C=C(C=C1)C(=O)N1C2=C(NC=3N(N=CC3C1)C)C=C(C=C2)C)F | InChI=1S/C20H20FN5O.ClH/c1-12-3-6-18-17(7-12)24-19-15(10-23-25(19)2)11-26(18)20(27)13-4-5-14(9-22)16(21)8-13;/h3-8,10,24H,9,11,22H2,1-2H3;1H
